US07595397B2
2-Phenyl-4-(2′-trifluoromethyl-biphenyl-3-ylmethyl)-morpholine
100 mg of 4-(3-Bromo-benzyl)-morpholine was combined with 86 mg of 2-(Trifluoromethyl)phenyl boronic acid, 17 mg of tetrakis(triphenylphosphine)palladium(0), 1.0 mL of 2M sodium carbonate solution, 2.7 mL toluene and 1.4 mL ethanol. The reaction mixture was heated in a sealed tube at 120° C. overnight in an oil bath. The reaction mixture was filtered through Celite and concentrated in vacuo. The residue was purified by flash chromatography using flash chromatography using an ethyl acetate/hexanes gradient. 122 mg of product was obtained. ES MS (+) m/z 398

reactant | 4-(3-Bromo-benzyl)-morpholine | 100 mg | BrC=1C=C(CN2CCOCC2)C=CC1 | C11H14BrNO
reactant | 2-(Trifluoromethyl)phenyl boronic acid | 86 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2M, 1.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 2.7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1.4 mL | C(C)O | C2H6O
product | 2-Phenyl-4-(2′-trifluoromethyl-biphenyl-3-ylmethyl)-morpholine | 122 mg | C1(=CC=CC=C1)C1CN(CCO1)CC=1C=C(C=CC1)C1=C(C=CC=C1)C(F)(F)F | C24H22F3NO
